US09388143B2
Synthesis of 3-amino-N-{3-[(2-chloro-5-methoxyphenyl)amino]quinoxalin-2-yl}benzenesulfonamide hydrochloride
To 1 kg of N-{3-[(2-chloro-5-methoxyphenyl)amino]quinoxalin-2-yl}-3-nitrobenzenesulfonamide, add a catalytic amount of platinum sulfide on carbon (Pt(S)C), 6 volumes of THF, 0.16 volume of water and 2 volumes of ethanol. The reaction mixture is stirred and heated to reflux. An aqueous potassium formate solution (1.4 volume of water+0.69 kg of potassium formate) is added. The reaction mixture is stirred at reflux until completion of the reaction and cooled down at 50° C. After the addition of 10 volumes of methanol and a one hour stirring, the catalyst is filtered off and washed with 3.4 volumes of methanol. The filtered solution is cooled down at 20° C. 0.62 kg of HCl are added. The reaction mixture is stirred at 20° C., cooled down at 5° C. and filtered. The cake is washed with methanol (6 volumes) and dried under vacuum.

reactant | N-{3-[(2-chloro-5-methoxyphenyl)amino]quinoxalin-2-yl}-3-nitrobenzenesulfonamide | 1 kg | ClC1=C(C=C(C=C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C21H16ClN5O5S
reactant | THF | C1CCOC1 | C4H8O
reactant | water | O | H2O
reactant | potassium formate | 0.69 kg | C(=O)[O-].[K+]
catalyst | platinum sulfide | [Pt]=S
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-N-{3-[(2-chloro-5-methoxyphenyl)amino]quinoxalin-2-yl}benzenesulfonamide hydrochloride | Cl.NC=1C=C(C=CC1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=C(C=CC(=C1)OC)Cl | InChI=1S/C21H18ClN5O3S.ClH/c1-30-14-9-10-16(22)19(12-14)26-20-21(25-18-8-3-2-7-17(18)24-20)27-31(28,29)15-6-4-5-13(23)11-15;/h2-12H,23H2,1H3,(H,24,26)(H,25,27);1H
